US09403801B2
Step 3) N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 4-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate (550 mg, 1.33 mmol) in DCM (20 mL) was added CF3COOH (5 mL) and the reaction mixture was stirred at rt for 2 h. The reaction mixture was concentrated in vacuo and adjust to pH=8˜9 with the saturated NaHCO3 aqueous solution, then diluted with H2O (20 mL) and extracted withed EtOAc (50 mL×3). The combined organic phases were washed with brine (50 mL), then dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=50/1 to 10/1) to give the product as a yellow solid (450 mg, 100%).

reactant | tert-butyl 4-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 1.33 mmol, 550 mg | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C21H31N7O2
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine | 450 mg, 100% | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CNCC12CCCC2 | C16H23N7
